US08563562B2
Preparation of 2-[5-(3-Chloro-4-fluoro-benzyl)-thiazol-2-yl]-3-hydroxy-9-(3-methyl-2-oxo-imidazolidin-1-yl)-7-morpholin-4-yl-pyrido[1,2-a]pyrimidin-4-one
A solution of 3-Benzyloxy-2-[5-(3-chloro-4-fluoro-benzyl)-thiazol-2-yl]-9-(3-methyl-2-oxo-imidazolidin-1-yl)-7-morpholin-4-yl-pyrido[1,2-a]pyrimidin-4-one (50 mg, 0.076 mmol) in trifluoroacetic acid (1 ml) was refluxed for 3 h. Then trifluoroacetic acid was removed under reduced pressure and MeOH (3 ml) was added. The resulting precipitate was collected by filtration and washed with MeOH to give title compound (40 mg, 93%).

reactant | 3-Benzyloxy-2-[5-(3-chloro-4-fluoro-benzyl)-thiazol-2-yl]-9-(3-methyl-2-oxo-imidazolidin-1-yl)-7-morpholin-4-yl-pyrido[1,2-a]pyrimidin-4-one | 0.076 mmol, 50 mg | C(C1=CC=CC=C1)OC1=C(N=C2N(C1=O)C=C(C=C2N2C(N(CC2)C)=O)N2CCOCC2)C=2SC(=CN2)CC2=CC(=C(C=C2)F)Cl | C33H30ClFN6O4S
solvent | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-[5-(3-Chloro-4-fluoro-benzyl)-thiazol-2-yl]-3-hydroxy-9-(3-methyl-2-oxo-imidazolidin-1-yl)-7-morpholin-4-yl-pyrido[1,2-a]pyrimidin-4-one | 40 mg, 93% | ClC=1C=C(CC2=CN=C(S2)C=2N=C3N(C(C2O)=O)C=C(C=C3N3C(N(CC3)C)=O)N3CCOCC3)C=CC1F | C26H24ClFN6O4S
